US07812028B2
b) 5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid Methylester
The title compound was synthesized in analogy to the procedure described for the preparation of Example 36b, using 5-amino-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid methyl ester as starting material and isoamylnitrite, dibromomethane and trimethylbromosilane as reagents to give the title compound which was used in the next step without further purification.

reactant | 5-amino-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1)N)C1=CC=C(C=C1)Cl | C12H10ClN3O2
reactant | isoamylnitrite | C(CC(C)C)ON=O | C5H11NO2
reactant | dibromomethane | BrCBr | CH2Br2
reactant | trimethylbromosilane | C[Si](Br)(C)C | C3H9BrSi
product | 5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid Methylester | COC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl | C12H8BrClN2O2
